US09340549B2
To a solution of 1-(2-fluorophenyl)-2-methoxy-2-oxoethanaminium chloride (2.6 g, 11.8 mmol) in EtOH (26 mL) were added NaHCO3 (3.97 g, 47.3 mmol) and di tert-butyl dicarbonate (3.87 g, 17.7 mmol). The resulting reaction mixture was stirred for 12 hours at ambient temperature. After completion of the reaction (reaction monitored by TLC, TLC system: 30% EtOAc in hexane), the reaction mixture was filtered through Celite® brand filter aid and the filtrate was concentrated. The residue was purified by column chromatography using silica gel eluting with 20% EtOAc in hexane to afford methyl 2-((tert-butoxycarbonyl)amino)-2-(2-fluorophenyl)acetate (3 g, 89.47%) as a white solid. 1H NMR (300 MHz, DMSO-d6): δ 7.91 (d, J=8.7 Hz, 1H), 7.44-7.35 (m, 2H), 7.25-7.17 (m, 2H), 5.50 (d, J=8.6 Hz, 1H), 3.63 (s, 3H), 1.39 (s, 9H).

reactant | 1-(2-fluorophenyl)-2-methoxy-2-oxoethanaminium chloride | 11.8 mmol, 2.6 g | [Cl-].FC1=C(C=CC=C1)C(C(=O)OC)[NH3+]
reactant | NaHCO3 | 47.3 mmol, 3.97 g | C(=O)(O)[O-].[Na+]
reactant | di tert-butyl dicarbonate | 17.7 mmol, 3.87 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOH | 26 mL | CCO | C2H6O
solvent | hexane | CCCCCC | C6H14
product | methyl 2-((tert-butoxycarbonyl)amino)-2-(2-fluorophenyl)acetate | 3 g, 89.47% | C(C)(C)(C)OC(=O)NC(C(=O)OC)C1=C(C=CC=C1)F | C14H18FNO4
